* E:\LTSpice\Draft4.asc for V1 active V(n004):	 2.12778	 voltage
R1 N003 N002 100;
R2 N004 N003 100;
R3 N001 N004 330;
R4 N003 0 330;
R5 N004 0 330;
R6 N005 0 330;
V1 N002 0 5;
V2 N001 N005 0;
.op;