* E:\LTSpice\Draft4.asc for V2 active V(n004):	 0.742478	 voltage v1+ v2 = V(n004):	 2.87026	 voltage
R1 N003 N002 100;
R2 N004 N003 100;
R3 N001 N004 330;
R4 N003 0 330;
R5 N004 0 330;
R6 N005 0 330;
V1 N002 0 0;
V2 N001 N005 5;
.op;
